US04937244
(b) 4-Amino-3,3,5,5-tetramethylmorpholine
About 20% of a solution of 5 g of lithium alanate in 50 ml of tetrahydrofuran is added dropwise to a heated solution of 17.2 g of 4-nitroso-3,3,5,5-tetramethylmorpholine in 50 ml of tetrahydrofuran and 100 ml of dibutyl ether. The tetrahydrofuran is distilled off and the internal temperature is increased to 99° C. The remainder of the lithium alanate solution is then added dropwise and the mixture is kept at 70° C. for a further hour. After the mixture has been cooled in an ice-bath, 10 ml of water and 10 ml of 15% strength sodium hydroxide solution are carefully added. After filtration with suction, the filtrate is extracted by shaking first with water and then with 100 ml of 1N hydrochloric acid. The aqueous HCl phase is then extracted by shaking once more with diethyl ether and used in the next stage.

reactant | lithium | 5 g | [Li] | Li
reactant | 4-nitroso-3,3,5,5-tetramethylmorpholine | 17.2 g | N(=O)N1C(COCC1(C)C)(C)C | C8H16N2O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dibutyl ether | 100 ml | C(CCC)OCCCC | C8H18O
product | 4-Amino-3,3,5,5-tetramethylmorpholine | NN1C(COCC1(C)C)(C)C | C8H18N2O
